US06977262B2
Ethyl 4-(2-chlorophenyl)-4,7-dihydro-6-(4-methoxyphenyl)-2H-pyrazolo[3,4-b]pyridine-5-carboxylate
The title compound was prepared from 2-chlorobenzaldehyde, 3-aminopyrazole and ethyl (4-methoxybenzoyl)acetate in the same manner as in Example 1.

reactant | 2-chlorobenzaldehyde | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | 3-aminopyrazole | NC1=NNC=C1 | C3H5N3
reactant | ethyl (4-methoxybenzoyl)acetate | COC1=CC=C(C(=O)CC(=O)OCC)C=C1 | C12H14O4
product | Ethyl 4-(2-chlorophenyl)-4,7-dihydro-6-(4-methoxyphenyl)-2H-pyrazolo[3,4-b]pyridine-5-carboxylate | ClC1=C(C=CC=C1)C1C=2C(NC(=C1C(=O)OCC)C1=CC=C(C=C1)OC)=NNC2 | C22H20ClN3O3
